US07728150B2
3-(3-Fluorophenoxy)-propan-ol
To a pre-dried round bottom flask, equipped with a magnetic stirrer, add sodium hydride (60% dispersion in mineral oil, 4.80 g, 0.120 mol) under a nitrogen atmosphere. Wash the sodium hydride with hexanes (3×100 mL) to remove the mineral oil then dimethylformamide (165 mL) is added. The resulting suspension is cooled to 0° C. and a solution of 3-fluorophenol (11.20 g, 0.100 mol) in dimethylformamide (35 mL) is added dropwise resulting in gas evolution and a color change from green to blue-green. After stirring the reaction mixture at rt for approximately 30 min the reaction is recooled to 0° C. and a solution of 3-chloro-1-propanol (9.46 g, 0.100 mol) in dimethylformamide (35 mL) is added dropwise. The resulting reaction mixture is heated to 60° C. for 2.5 h. The solution is cooled, the dimethylformamide is removed under reduced pressure and the resulting reaction mixture is diluted with water (250 mL) and extracted with diethyl ether (3×150 mL). The combined organic extracts are washed with water (200 mL), 2 M aqueous sodium hydroxide (200 mL), water (200 mL) and brine (200 mL). The organic layer is dried over magnesium sulfate, filtered and concentrated to afford the slightly impure title compound (13.32 g, 78%) as an amber oil which is used directly in the next reaction without purification: Rf 0.40 (19:1 CH2Cl2/MeOH); 1H NMR (300 MHz; CDCl3), δ 1.68 (t, J=5.1 Hz, 1H), 2.04 (quintuplet, J=6.0 Hz, 2H), 3.83-3.89 (m, 2H), 4.10 (t, J=6.0 Hz, 2H), 6.59-6.70 (m, 3H), 7.17-7.25 (m, 1H); 19FNMR (282 MHz, CDCl3), δ-112.13; APCI MS m/z 153 [C9H11FO2+H—H2O]+.

reactant | sodium hydride | 0.120 mol, 4.80 g | [H-].[Na+]
reactant | 3-fluorophenol | 0.100 mol, 11.20 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | 3-chloro-1-propanol | 0.100 mol, 9.46 g | ClCCCO | C3H7ClO
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | 3-(3-Fluorophenoxy)-propan-ol | 13.32 g, 78% | FC=1C=C(OCCCO)C=CC1 | C9H11FO2
